US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(ethyl)carbamate (104 mg, 151 μmol) in 4 M HCl in dioxane (754 μl) was stirred for 1 h. The reaction was diluted with Et2O (10 mL) and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(ethylamino)propanamide hydrochloride (72.1 mg, 76%) as a white solid. MS m/z 590 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(ethyl)carbamate | 151 μmol, 104 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)N(C(OC(C)(C)C)=O)CC)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C36H43N5O7S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 754 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (S)-N-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(ethylamino)propanamide hydrochloride | 72.1 mg, 76% | Cl.C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)NCC)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | InChI=1S/C31H35N5O5S.ClH/c1-6-33-20(3)30(38)34-29-21(4)36(28(37)18-42(5,40)41)27-15-22(16-32)12-14-26(27)35(31(29)39)17-25-19(2)11-13-23-9-7-8-10-24(23)25;/h7-15,20-21,29,33H,6,17-18H2,1-5H3,(H,34,38);1H/t20-,21-,29-;/m0./s1
